US03941756
330 g of carrier-bound penicillinacylase produced according to Example 1, having an enzymatic activity of 3,410 U (NIPAB test) and 129 g of potassium penicillin G are successively added to 2,000 ml of water and stirred at 38°C. and pH 7.8 as described in Example 14. The penicillin G is completely split to 6-APA and phenylacetic acid over the course of 2 hours. The 6-APA is isolated as described in Example 14. The carrierbound penicillinacylase is employed 20 times in succession. Even after the twentieth splitting, the reaction time does not have to be extended to achieve complete splitting.

reactant | NIPAB | C1=CC=C(C=C1)CC(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C(=O)O | C15H12N2O5
reactant | potassium penicillin G | 129 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC3=CC=CC=C3)C(=O)[O-])C.[K+]
solvent | water | 2,000 ml | O | H2O
product | 6-APA | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
